US07763758B2
d) Preparation of N-benzylidene-N-[3-(diphenylphosphino)propyl]amine (L-9)
Under argon, a solution of 3-diphenylphosphino-propylamine (631.2 mg, 2.6 mmol) and benzaldehyde (278.1 mg, 2.6 mmol) in ethanol (15 mL) was heated at 65° C. (oil bath) for 4 h. Then, the solvent was removed in-vacuo to give the desired product (>98% by 1H-NMR) as a white solid (822.3 mg, 2.5 mmmol, 96%).

reactant | 3-diphenylphosphino-propylamine | 2.6 mmol, 631.2 mg | C1(=CC=CC=C1)P(CCCN)C1=CC=CC=C1 | C15H18NP
reactant | benzaldehyde | 2.6 mmol, 278.1 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-benzylidene-N-[3-(diphenylphosphino)propyl]amine | >98% | C(C1=CC=CC=C1)=NCCCP(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22NP
